US04472404
Ethyl N-(((5,7-dichloro-8-quinolinyl)oxy)carbonyl)glycinate
5,7-Dichloro-8-hydroxyquinoline (21.4 g), ethyl isocyanatoacetate (21.3 g) and triethylamine (1.0 ml) were mixed together in 400 ml of methyl ethyl ketone and stirred at room temperature for about 42 hours resulting in the precipitation of a white crystalline solid. This solid was removed from the reaction mixture by filtration and was determined to be the desired ethyl N-(((5,7-dichloro-8-quinolinyl)oxy)carbonyl)glycinate, m.p. 119.5° C.

reactant | 5,7-Dichloro-8-hydroxyquinoline | 21.4 g | ClC1=C2C=CC=NC2=C(C(=C1)Cl)O | C9H5Cl2NO
reactant | ethyl isocyanatoacetate | 21.3 g | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | methyl ethyl ketone | 400 ml | C(C)C(=O)C | C4H8O
product | Ethyl N-(((5,7-dichloro-8-quinolinyl)oxy)carbonyl)glycinate | ClC1=C2C=CC=NC2=C(C(=C1)Cl)OC(=O)NCC(=O)OCC | C14H12Cl2N2O4
